US07754737B2
(R)-tert-butyl 3-((R)-(2-acetamidoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (95 mg, 1.88 mmol) was dissolved in 20% v/v TFA/CH2Cl2 (8 mL) at 0° C., the mixture was allowed to warm to rt for 1 h and then concentrated in vacuo to give N-(2-((R)-(3-chloro-2-fluorophenyl)((R)-piperidin-3-yl)methoxy)ethyl)acetamide (63 mg, 87%), which was used without further purification. MS (E/Z): 329 (M+)

reactant | (R)-tert-butyl 3-((R)-(2-acetamidoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate | 1.88 mmol, 95 mg | C(C)(=O)NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F | C21H30ClFN2O4
solvent | TFA CH2Cl2 | 8 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-(2-((R)-(3-chloro-2-fluorophenyl)((R)-piperidin-3-yl)methoxy)ethyl)acetamide | 63 mg, 87% | ClC=1C(=C(C=CC1)[C@H](OCCNC(C)=O)[C@H]1CNCCC1)F | C16H22ClFN2O2
